US08217028B2
Water (20 mL) and concentrated HCl solution (10 mL) were added to a solution of 7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-3-(2-nitroethyl)-1H-indole (D83) (2.1 g) in EtOAc (70 mL) and methanol (150 mL). The mixture was heated to reflux and stirred efficiently. Fe (6.0 g) was added in portions. After the addition was complete, the reaction mixture was refluxed for 8 hours. The solid was filtered off and the filtrate was concentrated and then basified with saturated NaHCO3 solution. The solid was filtered off and the filtrate was extracted with dichloromethane (200 mL). The organic layer was washed with water and brine, and then dried over MgSO4. Removal of the solvent gave the product 2-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]ethanamine (D84) (1.4 g) as a yellow foam solid. No further purification was carried out. MS (ES): C21H21ClN4O2 requires 396; found 397.2 (M+H+).

reactant | Water | 20 mL | O | H2O
reactant | HCl | 10 mL | Cl | ClH
reactant | 7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-3-(2-nitroethyl)-1H-indole | 2.1 g | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CNC12)CC[N+](=O)[O-] | C21H19ClN4O4
solvent | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
solvent | methanol | 150 mL | CO | CH4O
catalyst | Fe | 6.0 g | [Fe] | Fe
product | 2-[7-(5-{3-chloro-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1H-indol-3-yl]ethanamine | 1.4 g | ClC=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC=C2C(=CNC12)CCN | C21H21ClN4O2
